* -*- spice -*-

.LIB MOS

.subckt  sub1_in_lib  n1 n2
.LIB 'extra3.lib' RES
Xsub1  n1 n2  sub3_in_lib
R1a    n1 n2  4k
R1b    n1 n2  2k
.ends

.subckt  sub2_in_lib  n1 n2
.LIB 'extra3.lib' RES
Xsub2  n1 n2  sub3_in_lib
R2     n1 n2  4k
.ends

.ENDL MOS
